US04127660
6-p-Bromophenyl-3-ethyl-6-hydroxy-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine
A solution of 6.95 grams (0.025 moles) of p-bromophenacylbromide in 60 milliliters of acetone was mixed with a solution of 3.62 grams (0.025 moles) of 5-ethyl 3,4,5,6-tetrahydro-s-triazin 2(1H) thione in 500 milliliters of acetone. After 10 minutes 6-p-bromophenyl-3-ethyl-6-hydroxy-3,4,6,7-tetrahydro-2H-thiazolo(3,2-a)-s-triazine hydrobromide crystallized out as a colourless solid, m.p. 132°-134° C. The yield was 9.27 grams (88%).

reactant | p-bromophenacylbromide | 0.025 moles, 6.95 grams | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | 5-ethyl 3,4,5,6-tetrahydro-s-triazin 2(1H) thione | 0.025 moles, 3.62 grams | C(C)N1CNC(NC1)=S | C5H11N3S
solvent | acetone | 60 milliliters | CC(=O)C | C3H6O
solvent | acetone | 500 milliliters | CC(=O)C | C3H6O
product | 6-p-Bromophenyl-3-ethyl-6-hydroxy-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine | BrC1=CC=C(C=C1)C1(CSC=2N1CN(CN2)CC)O | C13H16BrN3OS
